US05360909
360 mg of 10% palladium-carbon were added to 15 ml of ethyl acetate solution of 3.61 g of t-butyl 4-[2-(4-chlorobenzenesulfonamido)ethyl]-2-nitrophenoxyacetate and stirred at one atmospheric pressure in the presence of hydrogen gas. The reaction mixture was filtered and concentrated under reduced pressure. The resulting residue was subjected to silica-gel column chromatography, whereupon 2.23 g (yield 66%) of t-butyl 4-[2-(4-chlorobenzenesulfonamido)ethyl]-2-aminophenoxyacetate were obtained from the fraction as eluted with hexane/ethyl acetate (2/1, v/v) as a yellow oily substance.

reactant | t-butyl 4-[2-(4-chlorobenzenesulfonamido)ethyl]-2-nitrophenoxyacetate | 3.61 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC(=C(OCC(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C20H23ClN2O7S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 360 mg | [C].[Pd]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | t-butyl 4-[2-(4-chlorobenzenesulfonamido)ethyl]-2-aminophenoxyacetate | 2.23 g, yield 66% | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC(=C(OCC(=O)OC(C)(C)C)C=C1)N | C20H25ClN2O5S
